US06495541B1
Phosphorous oxychloride (0.42 g, 2.71 mmol) was added to DMF (0.99 g, 13.57 mmol) at 0° C. The resulting colorless solution was added dropwise to a solution of 2-(4-chloro-phenyl)-1H-indole4-carboxylic acid methyl ester (0.52 g, 1.81 mmol) in 10 mL dry CH2Cl2 at 0° C. The reaction was stirred at 0° C. for 10 min then quenched by addition of 5 mL 2 M NaOAc(aq). The layers were separated and the aqueous layer extracted once with CH2C12. The combined organic layers were dried (MgSO4) then concentrated in vacuo leaving an orange oil which crystallized on standing. The crystals were rinsed with CH2Cl2 then dried in vacuo to yield 2-(4-chloro-phenyl)-3-formyl-1H-indole-4-carboxylic acid methyl ester, 231 mg (41%) as an off-white solid: m.p. 221-222° C.; 1H NMR (300 MHz, d6-DMSO) 3.93 (s, 3H), 7.49 (app t, J=7.5 Hz, 1H), 7.71 (m, 4H), 7.94 (d, J=7.8 Hz, 2H), 9.71 (s, 1H), 13.67 (br s, 1H). MS (electrospray, [M-H]) 312.

reactant | Phosphorous oxychloride | 2.71 mmol, 0.42 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 13.57 mmol, 0.99 g | CN(C)C=O | C3H7NO
reactant | 2-(4-chloro-phenyl)-1H-indole4-carboxylic acid methyl ester | 1.81 mmol, 0.52 g | COC(=O)C=1C=2C=C(NC2C=CC1)C1=CC=C(C=C1)Cl | C16H12ClNO2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-chloro-phenyl)-3-formyl-1H-indole-4-carboxylic acid methyl ester | COC(=O)C=1C=2C(=C(NC2C=CC1)C1=CC=C(C=C1)Cl)C=O | C17H12ClNO3
